US05736534
6,7-Dimethoxy-4-(6-phenyl-2,3-dihydro-indol-1-yl)-quinazoline
Utilizing a procedure analogous to that described in Example 1, this product was prepared in 61% yield from 6-phenyl-indoline (1.1 eq.), and 4-chloro-6,7- dimethoxy-quinazoline (1.0 eq) in i-PrOH. (M.P. 175°-177° C.; GC-MS: 383 (M+); anal. RP18-HPLC RT: 6.03min.).

reactant | 6-phenyl-indoline | 1.1 eq. | C1(=CC=CC=C1)C1=CC=C2CCNC2=C1 | C14H13N
reactant | 4-chloro-6,7- dimethoxy-quinazoline | 1.0 eq | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
solvent | i-PrOH | CC(C)O | C3H8O
product | 6,7-Dimethoxy-4-(6-phenyl-2,3-dihydro-indol-1-yl)-quinazoline | 61% yield | COC=1C=C2C(=NC=NC2=CC1OC)N1CCC2=CC=C(C=C12)C1=CC=CC=C1 | C24H21N3O2
